* nand

.subckt nand2x1 a b o 
M1 o b vdd vdd tp L=65n W= 325n 
M2 o a vdd vdd tp L=65n W=325n
M3 o a n0 vss tn L=65n W=130n 
M4 n0 b vss vss tn L=65n W=130n 

*BSIM 
.model tp pmos level=54 version=4.8.3 TOX=1.85n
.model tn nmos level=54 version=4.8.3 TOX=1.85n
.ends nand2x1



