* ring oscillator 2
.subckt ring_oscillator_2 in n12
xNAND in n12 n0 nand2x1
x1 n0 n1 inverter tplv=0.9444605967917988 tpwv=1.01904718762225 tnlv=0.9657874292480602 tnwv=0.9758976920757958 tpotv=1.0600859032815626 tnotv=0.9718247907073201
x2 n1 n2 inverter tplv=0.9939239436112018 tpwv=0.9474965088804039 tnlv=1.0326229703531875 tnwv=1.0236567239766585 tpotv=0.9624001159902824 tnotv=0.9818360932305155
x3 n2 n3 inverter tplv=0.9374586039805504 tpwv=0.965423653476954 tnlv=0.9477572393692392 tnwv=0.9985608836586726 tpotv=0.9519747414004096 tnotv=1.0143459378233293
x4 n3 n4 inverter tplv=1.0662833873848965 tpwv=0.9641612212162075 tnlv=0.9746163139509778 tnwv=1.0185496341816607 tpotv=1.049110773110308 tnotv=0.966166366844243
x5 n4 n5 inverter tplv=1.0096698378378937 tpwv=0.9445731231466383 tnlv=1.0838941522712675 tnwv=1.0815567082903046 tpotv=0.9859134635823674 tnotv=1.011621416528557
x6 n5 n6 inverter tplv=1.033700981767216 tpwv=0.9636294745437746 tnlv=1.0156871599251052 tnwv=1.0299384270327097 tpotv=1.0160222830403347 tnotv=0.9780492570368888
x7 n6 n7 inverter tplv=1.047436279810422 tpwv=0.9673160399702116 tnlv=0.996774662969577 tnwv=0.9611594165399073 tpotv=0.9696218968445295 tnotv=1.0010272055837448
x8 n7 n8 inverter tplv=1.0029307913457717 tpwv=0.9536783500303665 tnlv=0.9355755054804669 tnwv=1.002834167424791 tpotv=1.0622415341971774 tnotv=0.9557529202651305
x9 n8 n9 inverter tplv=0.916068495297 tpwv=0.9431344130927686 tnlv=1.0303856528183495 tnwv=1.0493511598247989 tpotv=0.9949689956418074 tnotv=0.9868530983781864
x10 n9 n10 inverter tplv=1.025180028275143 tpwv=1.027025346366432 tnlv=0.9701172364981985 tnwv=0.9878550092576378 tpotv=0.9838115944722883 tnotv=1.0143248790184745
x11 n10 n11 inverter tplv=1.0117927765469474 tpwv=1.0132638075311147 tnlv=0.9466968004112913 tnwv=1.0906673624773495 tpotv=1.01811711128424 tnotv=0.9424467830664086
x12 n11 n12 inverter tplv=0.9741086706613837 tpwv=0.9881817793708327 tnlv=0.9912736163513708 tnwv=1.046764855811368 tpotv=0.9864310144796389 tnotv=0.9534420793693279

.ends ring oscillator
