* ring oscillator 7
.subckt ring_oscillator_7 in n12
xNAND in n12 n0 nand2x1
x1 n0 n1 inverter tplv=0.9772406540631918 tpwv=0.970458135216176 tnlv=1.0205428785428499 tnwv=0.9930658764904668 tpotv=1.0768180309160658 tnotv=0.9404866591797182
x2 n1 n2 inverter tplv=0.9629658466736244 tpwv=1.021333828937594 tnlv=0.9738787412274229 tnwv=1.0205537543247651 tpotv=1.0565793749559074 tnotv=1.0472152145145595
x3 n2 n3 inverter tplv=1.114125351383561 tpwv=1.0730019362607726 tnlv=1.0110362562593327 tnwv=0.9851948918104713 tpotv=1.0327179025699698 tnotv=1.070452882475908
x4 n3 n4 inverter tplv=1.016606084726556 tpwv=1.0187966632749728 tnlv=0.958586640191932 tnwv=0.9918453720812616 tpotv=0.9563388566338762 tnotv=1.0096345618264686
x5 n4 n5 inverter tplv=0.9575589710436074 tpwv=1.020954200872853 tnlv=1.001398010499047 tnwv=0.9753054563235225 tpotv=0.9594389309664919 tnotv=1.0937333689932387
x6 n5 n6 inverter tplv=1.0276116293353044 tpwv=0.985093939158479 tnlv=0.9612085807940937 tnwv=0.9938203687073932 tpotv=1.007910203886233 tnotv=0.9907919554302875
x7 n6 n7 inverter tplv=0.9824294018425335 tpwv=1.0837911320270672 tnlv=1.0556026553755997 tnwv=1.0140778422595276 tpotv=1.041037667282857 tnotv=1.021176133394413
x8 n7 n8 inverter tplv=0.9875538017228067 tpwv=0.9996883282144005 tnlv=0.9905491709528121 tnwv=1.0052774191993479 tpotv=1.0462300003734242 tnotv=1.0080228555649118
x9 n8 n9 inverter tplv=1.0067384948472966 tpwv=1.0534506824823544 tnlv=0.951055299985396 tnwv=0.9755819727963906 tpotv=0.988162527600129 tnotv=0.989199595381473
x10 n9 n10 inverter tplv=0.9893915931197866 tpwv=0.9951417980754148 tnlv=1.0508047827684082 tnwv=0.953960880453622 tpotv=0.9523121162320619 tnotv=1.0536758586607562
x11 n10 n11 inverter tplv=1.023525759078164 tpwv=0.9380053392307809 tnlv=0.9707574375574779 tnwv=0.9593190666747968 tpotv=0.9869314673284778 tnotv=1.0600230644232227
x12 n11 n12 inverter tplv=1.0293805885554341 tpwv=0.9733839822346345 tnlv=1.0080107863318932 tnwv=1.030940415736688 tpotv=0.977791636305413 tnotv=0.9716906970773198

.ends ring oscillator
