* ring oscillator 0
.subckt ring_oscillator_0 in n12
xNAND in n12 n0 nand2x1
x1 n0 n1 inverter tplv=1.0909598197608774 tpwv=0.9502643401054494 tnlv=0.9976927498599756 tnwv=1.0426395073248533 tpotv=1.0070733252462853 tnotv=1.0728770155440444
x2 n1 n2 inverter tplv=0.9587263178910811 tpwv=0.9716707792761295 tnlv=0.9966202405934794 tnwv=0.990548966097365 tpotv=1.019215390283285 tnotv=0.9324626853302278
x3 n2 n3 inverter tplv=1.0054488119642713 tpwv=0.9326233925449028 tnlv=0.9978415407295191 tnwv=0.9541667939995824 tpotv=1.0130922901712207 tnotv=1.064973907731361
x4 n3 n4 inverter tplv=0.896454786571254 tpwv=1.0854766845218005 tnlv=0.9950047750087987 tnwv=1.010170465692631 tpotv=1.0700376948274335 tnotv=1.008013658974518
x5 n4 n5 inverter tplv=1.0205176696931753 tpwv=0.9186836833850901 tnlv=0.9324049709317982 tnwv=0.9672896107309172 tpotv=0.925732426395696 tnotv=0.9893047776050878
x6 n5 n6 inverter tplv=0.9944063834002485 tpwv=0.9962297793022167 tnlv=0.9828270805541985 tnwv=1.0113051028026607 tpotv=0.9843065371244147 tnotv=0.9669511956610422
x7 n6 n7 inverter tplv=0.9489635840554402 tpwv=0.9941707882577794 tnlv=1.011283995092442 tnwv=1.009616023745849 tpotv=0.9764164391748005 tnotv=0.9338756941880574
x8 n7 n8 inverter tplv=1.0247643580504666 tpwv=0.9690881172814129 tnlv=0.9915862216126851 tnwv=0.9751996034228549 tpotv=0.9815422879698334 tnotv=1.0181698203340142
x9 n8 n9 inverter tplv=1.0059217058034795 tpwv=0.989823226116839 tnlv=1.0015038322048684 tnwv=1.0482979300037247 tpotv=0.9054524782745138 tnotv=0.9381331640887247
x10 n9 n10 inverter tplv=1.0662773564116286 tpwv=0.9699741525164265 tnlv=1.033349320523479 tnwv=0.9973863497133604 tpotv=0.9453062706359606 tnotv=0.9368139100850746
x11 n10 n11 inverter tplv=1.032376512702124 tpwv=0.9636745114162263 tnlv=0.9891088614684108 tnwv=0.9555842236015825 tpotv=0.9990863930615668 tnotv=1.0565640434526138
x12 n11 n12 inverter tplv=0.9352578568795303 tpwv=1.009440919078463 tnlv=1.0443860686437036 tnwv=1.0288840539534676 tpotv=1.081064495759234 tnotv=0.97298859778835

.ends ring oscillator
