* ring oscillator 1
.subckt ring_oscillator_1 in n12
xNAND in n12 n0 nand2x1
x1 n0 n1 inverter tplv=0.9983601035594436 tpwv=0.9407121323775768 tnlv=1.0729580721927878 tnwv=0.9541587689550473 tpotv=0.9940334142944752 tnotv=1.0428028937626987
x2 n1 n2 inverter tplv=0.9660622246898749 tpwv=0.9585706038151668 tnlv=0.9885120300989332 tnwv=1.0126744049291796 tpotv=0.9901553231161371 tnotv=0.9417317722015325
x3 n2 n3 inverter tplv=1.0292938924834063 tpwv=0.9899528821060593 tnlv=0.9994949872910428 tnwv=0.9548330708775792 tpotv=1.0314327200298106 tnotv=1.0309711513234154
x4 n3 n4 inverter tplv=1.049080090181292 tpwv=1.0187525487081643 tnlv=1.0380260525111986 tnwv=0.9971352061960171 tpotv=1.0052240612753136 tnotv=1.0453575724787294
x5 n4 n5 inverter tplv=0.9867100970960744 tpwv=0.9601434309905437 tnlv=1.0275483014402509 tnwv=1.0451087583106242 tpotv=1.0140486222787584 tnotv=1.0768102533375303
x6 n5 n6 inverter tplv=0.887171624522154 tpwv=1.0413475605839388 tnlv=1.002813098424026 tnwv=1.0763445732590724 tpotv=0.9573072792499678 tnotv=0.9955995919253444
x7 n6 n7 inverter tplv=1.072112017454675 tpwv=1.0672692566563002 tnlv=0.9329422473637596 tnwv=0.9698553988532902 tpotv=0.9532398954860392 tnotv=0.9591347079971092
x8 n7 n8 inverter tplv=0.9866879067019514 tpwv=1.0130325619325646 tnlv=0.9879967331557651 tnwv=0.9984126807029426 tpotv=0.9755865336762228 tnotv=1.0591912853808891
x9 n8 n9 inverter tplv=0.947070702522616 tpwv=0.9957709078223654 tnlv=0.9890625480701732 tnwv=1.0344121980542784 tpotv=0.9303772113130848 tnotv=1.0028755557344549
x10 n9 n10 inverter tplv=1.0187746497102383 tpwv=1.0301095418176833 tnlv=1.0211778184629896 tnwv=0.9916636543976146 tpotv=0.9854504963180051 tnotv=1.000220290412434
x11 n10 n11 inverter tplv=0.9980164412306872 tpwv=0.9279744546162254 tnlv=0.8742812604454846 tnwv=1.0006323698022324 tpotv=0.951979005982899 tnotv=0.919079579118172
x12 n11 n12 inverter tplv=1.0578627834771 tpwv=1.0052193558663254 tnlv=0.9604726357487829 tnwv=0.9676706979029915 tpotv=1.0436757646082524 tnotv=1.0234465832764879

.ends ring oscillator
