* ring oscillator 3
.subckt ring_oscillator_3 in n12
xNAND in n12 n0 nand2x1
x1 n0 n1 inverter tplv=0.9573215208963486 tpwv=1.0530567886303879 tnlv=1.0207579049061364 tnwv=0.9744796041613479 tpotv=1.0107001962910676 tnotv=0.9211021537080276
x2 n1 n2 inverter tplv=1.0321924009209658 tpwv=0.9471621216825412 tnlv=0.9922308193999105 tnwv=1.021957264011861 tpotv=1.0253623332644959 tnotv=1.0231519945157432
x3 n2 n3 inverter tplv=1.0362143384036215 tpwv=0.9241478072601541 tnlv=1.024360960612963 tnwv=0.9105392503028258 tpotv=0.9778630576935838 tnotv=0.9338253033634459
x4 n3 n4 inverter tplv=1.0184841633784087 tpwv=1.0120797555808532 tnlv=1.0142908139221811 tnwv=1.0827261991385768 tpotv=1.0475573484002254 tnotv=0.9244708636756621
x5 n4 n5 inverter tplv=0.989017165527295 tpwv=0.9740616337197185 tnlv=1.0753164730993494 tnwv=1.004538405083386 tpotv=1.0044788031890428 tnotv=0.936728573425691
x6 n5 n6 inverter tplv=0.9668367486326513 tpwv=0.9794160694863742 tnlv=1.0810772248699947 tnwv=0.9842282099947822 tpotv=0.9531197814873361 tnotv=1.0304924789865346
x7 n6 n7 inverter tplv=0.9711137426643476 tpwv=0.893836741858958 tnlv=0.948574530268726 tnwv=0.9872346590985241 tpotv=0.9908271053627763 tnotv=0.9882789364532599
x8 n7 n8 inverter tplv=0.9295776254559371 tpwv=0.9580653962203743 tnlv=0.9591230112212021 tnwv=1.0288471209567311 tpotv=0.9898385114966076 tnotv=1.009881032948689
x9 n8 n9 inverter tplv=1.06728051195815 tpwv=0.9942793592469318 tnlv=1.028653037245026 tnwv=1.0131144882402743 tpotv=1.0244004166143152 tnotv=1.0362914696468422
x10 n9 n10 inverter tplv=1.0750266359850327 tpwv=0.8950189102745216 tnlv=0.9781856504129585 tnwv=0.9929636807742236 tpotv=0.9577516889152856 tnotv=1.0589076475075128
x11 n10 n11 inverter tplv=0.9946733318997851 tpwv=0.9690871757117929 tnlv=0.9297159045726291 tnwv=1.0823551712382395 tpotv=0.9910719351708541 tnotv=0.902585442453075
x12 n11 n12 inverter tplv=0.9946302657552732 tpwv=0.9791896851394302 tnlv=1.0457877663910042 tnwv=0.9831389694489284 tpotv=1.0240709642176762 tnotv=1.0268392721719608

.ends ring oscillator
