* ring oscillator 5
.subckt ring_oscillator_5 in n12
xNAND in n12 n0 nand2x1
x1 n0 n1 inverter tplv=1.0052629679758303 tpwv=1.0781098366310438 tnlv=0.9973193159599393 tnwv=1.0354617160570672 tpotv=1.0619130451667984 tnotv=0.9882691246043033
x2 n1 n2 inverter tplv=0.9821740904508665 tpwv=0.9632178654768415 tnlv=0.8951916164224336 tnwv=1.01535110626405 tpotv=1.0180249177835219 tnotv=1.0296142016336143
x3 n2 n3 inverter tplv=1.0214865150279948 tpwv=0.9727375033742666 tnlv=1.0385491368657647 tnwv=0.9735549560291228 tpotv=1.0019546158413768 tnotv=1.0274783916876402
x4 n3 n4 inverter tplv=1.0490660338059972 tpwv=0.98574645302019 tnlv=0.9601987816560557 tnwv=1.018435181177854 tpotv=1.058059027736347 tnotv=1.0069248913734314
x5 n4 n5 inverter tplv=0.9839253379007253 tpwv=1.007586528859931 tnlv=1.072428053974831 tnwv=0.9762191160324286 tpotv=1.008653236564768 tnotv=0.9635337771670597
x6 n5 n6 inverter tplv=0.9954288843416984 tpwv=0.9936293486553459 tnlv=0.9777661371979572 tnwv=0.9932487995996884 tpotv=0.988166400913697 tnotv=0.9331950296332929
x7 n6 n7 inverter tplv=0.9601587772401138 tpwv=1.0406028302507502 tnlv=1.0838964127726245 tnwv=1.1175440368002287 tpotv=0.9785980251456088 tnotv=1.0822824074712984
x8 n7 n8 inverter tplv=1.010147372957441 tpwv=0.9515155378905645 tnlv=0.9485131725043843 tnwv=1.0516012839976718 tpotv=0.909554561879369 tnotv=0.9708437530035361
x9 n8 n9 inverter tplv=1.0307178177277625 tpwv=1.037411747103571 tnlv=1.0007532734037325 tnwv=0.9650620406295373 tpotv=1.0390130016194328 tnotv=1.060232728538727
x10 n9 n10 inverter tplv=1.0272667131128408 tpwv=0.9704725728599827 tnlv=1.0141226172744482 tnwv=1.0508922621045687 tpotv=1.0602499242843528 tnotv=1.055297819579779
x11 n10 n11 inverter tplv=0.9640265269207295 tpwv=0.9108559634040319 tnlv=1.0255929552997884 tnwv=1.033133777838275 tpotv=1.0588587494580333 tnotv=1.0325552144308225
x12 n11 n12 inverter tplv=0.9722293744988839 tpwv=1.052885270137162 tnlv=1.0290780998033924 tnwv=0.9957699631133793 tpotv=0.996805734495874 tnotv=0.9226457823947892

.ends ring oscillator
