* ring oscillator 6
.subckt ring_oscillator_6 in n12
xNAND in n12 n0 nand2x1
x1 n0 n1 inverter tplv=1.1108915934628922 tpwv=0.9589449981307163 tnlv=0.8890473088757694 tnwv=0.9392777675158704 tpotv=0.9889335237611393 tnotv=0.931723441562407
x2 n1 n2 inverter tplv=0.9875888271301073 tpwv=1.0425242449785137 tnlv=1.0475446007107827 tnwv=0.9669719873691088 tpotv=0.9426282437209283 tnotv=0.9502656690885147
x3 n2 n3 inverter tplv=0.9997460359565128 tpwv=1.0582138327028112 tnlv=1.075813281939242 tnwv=1.0759871468398812 tpotv=1.0166424938488154 tnotv=1.0193036441540342
x4 n3 n4 inverter tplv=0.9677998152386178 tpwv=0.9217176202710831 tnlv=1.068360343641232 tnwv=1.0114421948361458 tpotv=0.9224751155448058 tnotv=1.0365548371010889
x5 n4 n5 inverter tplv=1.0328811711568673 tpwv=1.0020026823843178 tnlv=1.1113750069195294 tnwv=1.0169607462298906 tpotv=0.939160879419011 tnotv=1.0316263022312717
x6 n5 n6 inverter tplv=0.9264701586050523 tpwv=1.0098774148551308 tnlv=1.0191329514491096 tnwv=1.031073837022564 tpotv=1.0249887182143294 tnotv=1.05215998264065
x7 n6 n7 inverter tplv=0.9293143697748327 tpwv=1.0852187454073772 tnlv=1.0069250838388109 tnwv=1.0102792882961762 tpotv=1.012714390578691 tnotv=0.9832819601586146
x8 n7 n8 inverter tplv=0.9888437542660728 tpwv=1.0078306731719309 tnlv=1.0051279465958685 tnwv=1.037777471022491 tpotv=0.9954537268706548 tnotv=1.0414116643181617
x9 n8 n9 inverter tplv=1.0332925722775534 tpwv=0.9185876037094505 tnlv=1.0241271964675767 tnwv=1.0057010379474693 tpotv=0.9459544336986753 tnotv=0.9803442491883209
x10 n9 n10 inverter tplv=0.979223270189351 tpwv=0.9175596488034253 tnlv=0.9618430173218909 tnwv=1.000790738628219 tpotv=1.0765690301428532 tnotv=1.0041955451258113
x11 n10 n11 inverter tplv=0.9341689196972102 tpwv=0.9922723893849537 tnlv=0.9371904292459786 tnwv=1.0082694777650494 tpotv=0.997361269250616 tnotv=0.9945156093914062
x12 n11 n12 inverter tplv=1.001447262205945 tpwv=1.1036236491488838 tnlv=0.9691372810060206 tnwv=1.0721139007208775 tpotv=1.0085794956223246 tnotv=1.0004027753005047

.ends ring oscillator
